US04994452
To a solution of 8-hydroxy-1,2,3,4-tetrahydro-9-acridinamine hydrochloride (23.08 g) in dry dimethylformamide was added potassium carbonate (28.75 g), with stirring. After one hr, methyl-2-bromobutyrate (15.89 ml) was added dropwise and stirring was continued overnight. The reaction mixture was diluted with water (1.5 l), and extracted with ethyl acetate (2 l). The organic extracts were dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was flash chromatographed (ethyl, acetate, 5% triethylamine/ethyl acetate) to yield 30.34 g of ethyl α-[(9-amino-1,2,3,4-tetrahydroacridin-8-yl)oxy]butyrate hydrate.

reactant | 8-hydroxy-1,2,3,4-tetrahydro-9-acridinamine hydrochloride | 23.08 g | Cl.OC=1C=CC=C2N=C3CCCCC3=C(C12)N
reactant | potassium carbonate | 28.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl-2-bromobutyrate | 15.89 ml | COC(C(CC)Br)=O | C5H9BrO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 1.5 l | O | H2O
product | ethyl α-[(9-amino-1,2,3,4-tetrahydroacridin-8-yl)oxy]butyrate hydrate | 30.34 g | O.NC=1C2=C(C=CC=C2N=C2CCCCC12)OC(C(=O)OCC)CC | InChI=1S/C19H24N2O3.H2O/c1-3-15(19(22)23-4-2)24-16-11-7-10-14-17(16)18(20)12-8-5-6-9-13(12)21-14;/h7,10-11,15H,3-6,8-9H2,1-2H3,(H2,20,21);1H2
